US05994368
To a suspension of 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)-cinnamoylglycyl]amino]benzene (17.6 g) in tetrahydrofuran (138 ml) was added 1M tetrabutylammonium fluoride in tetrahydrofuran (38.4 ml) at ambient temperature. The reaction mixture was stirred for 1 hour. The mixture was concentrated and diluted with dichloromethane. The organic layer was washed with 1N hydrochloric acid, saturated sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated in vacuo to give 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]-benzene (8.14 g).

reactant | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)-cinnamoylglycyl]amino]benzene | 17.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C37H39Cl2N3O4Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 138 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 38.4 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]-benzene | 8.14 g | ClC1=C(C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl)CO | C21H21Cl2N3O4
